US04165428
A mixture of 3.0 g of 1-(p-chlorobenzoyl)-2-methyl-5-methoxy-3-indolylacetic acid and 3.0 g of thionyl chloride was refluxed in 70 ml of benzene for 3 hours. After cooling, the solvent was distilled off under reduced pressure to leave a residue. The residue was dissolved in 20 ml of tetrahydrofuran. This solution was added to a solution of 1.0 g of 3-pyridylmethanol in 70 ml of tetrahydrofuran under cooling. To this mixture was carefully added 0.95 g of triethylamine and stirring was continued for 2 hours at room temperature. After the reaction was complete, the solvent was removed by distillation under reduced pressure to leave a residue. After addition of water to the residue, an oily substance was obtained and extracted with chloroform. The extract was applied on a column of silica gel and the adsorbate was eluted with ether to give crystals. Recrystallization of the crystals from a mixed solvent of ethyl acetate ester and ether yielded 3.0 g of 1-(p-chlorobenzoyl)-2-methyl-5-methoxy-3-indolylacetic acid-3 -pyridylmethyl ester, melting at 116°-118° C. Analysis--Calculated for C25H21ClN2O4 : C, 66.89; H, 4.72; N, 6.24. Found: C, 67.06; H, 4.68; N, 6.11.

reactant | 1-(p-chlorobenzoyl)-2-methyl-5-methoxy-3-indolylacetic acid | 3.0 g | ClC1=CC=C(C(=O)N2C(=C(C3=CC(=CC=C23)OC)CC(=O)O)C)C=C1 | C19H16ClNO4
reactant | thionyl chloride | 3.0 g | S(=O)(Cl)Cl | Cl2OS
reactant | 3-pyridylmethanol | 1.0 g | N1=CC(=CC=C1)CO | C6H7NO
reactant | triethylamine | 0.95 g | C(C)N(CC)CC | C6H15N
solvent | benzene | 70 ml | C1=CC=CC=C1 | C6H6
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1-(p-chlorobenzoyl)-2-methyl-5-methoxy-3-indolylacetic acid-3 -pyridylmethyl ester | 3.0 g | N1=CC(=CC=C1)COC(CC1=C(N(C2=CC=C(C=C12)OC)C(C1=CC=C(C=C1)Cl)=O)C)=O | C25H21ClN2O4
